data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9789,"C[O:1]C(O)(O)C1=CC=CC=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3579,"CC1=CC=C(S(=O)(=O)OC(C)CC[C:1]([O][AlH2-:2][H:3])=[N:4]C)C=C1|((2, 3), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1289,"C[NH+](C)C1=C(Br)C=C[C:1]([N+](=O)[O-])([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2804,"CO[C:1](=[O:2])[CH:3]=[CH:4]C1=CC=CC=C1.O[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3071,"C1CC[NH:1]CC1.O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3548,"C1=CC=[N:1]C=C1.CCO[C:2]([C:3](C#N)(C1SN(C)C2=C1C=C(Cl)C=C2)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,3364,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(Br)C=C(C(O)[O+:2](CC(C)(C)CO)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9047,"C1=COC(C[NH2+:1][H:2])=C1.CC(=O)CCC(C)(NCC1=CC=CO1)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9511,"CCOC[C:1](NC1=C(Cl)N=C2C=CC=CC2=C1NCC(C)(C)O)([O-:2])[Cl:3].CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5610,"CC(C)=O.CCN(CC)CC.CCOC(=O)C[C:1](Cl)=[O:2].FC(F)(F)C1=CC=CC([NH2:3])=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9344,"C1=CC=[N+:1]([H:2])C=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.IC1=CN(C2CCC3(CC2)OCC[O:3]3)N=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4713,"C1=CC=C([CH:1]=[O:2])C=C1.C[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6010,"C1=CC2=C(C=C1)C13OCCC1CC(O3)C2=[O:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5455,"CC(C(C=O)C[N+](C)(C)C)[O:1][CH:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6194,"CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OCC1=CC(OC2=CC=CC=C2)=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCC(F)=C(F)F|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5836,"CC(=C[O-:1])C1C(C2=CC=CC=C2)CC(C)C1[CH:2]=[N+:3](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,85,"COP(=O)(CC=[O:1])OC.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,9183,"CC(=O)[O-].O.O=S(CCN1CCC2CC[C:1]3([NH3+:2])C(C4=C(C=CC=C4)[NH:3]3)C21)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6037,"CCC([O-])[O+:1](C)[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,815,"CC(=O)O.COC1=C(C)C=C(OCC(=O)O[C:1](C)([O-:2])[O:3]C(C)=O)C(C(C)=O)=C1.[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,131,"O=C(CC(=O)[O-:1])CC1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3422,"C1=CC=C(N=N[C:1]2([H:2])SC=C[CH+:3]2)C=C1.[Cl-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,215,"C[OH:1].O[C:2](CC1=CC=CC(Br)=C1)=[OH+:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3114,"C1CCC([OH:1])OC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,813,"CC1=CC=C(S(=O)(=O)[O:1][CH:2](C)CCO)C=C1.[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4627,"O=S(=O)(O)[O-:1].OC1(O)CCCC[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1402,"COC1=C2C3=C(C=C1)CC1NCCC34C1(O)CC[CH-:1][CH:2]4[O:3]2.N#N.O.[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,461,"CCN[C:1](=[OH+:2])[CH:3]=[CH2:4].CC[SH:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8484,"C1=CC=CC=C1.C1CCNC1.C1CC[C:1](=[N+:2]2CCCC2)[CH:3]([H:4])C1.[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1922,"O[C:1]1([Cl:2])C=C[N-:3][CH:4]=[CH:5]1|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2561,"CCC1C=CC=CC(O[Si](C)(C)C(C)(C)C)C(C[CH:1]2[CH:2](C#C[Si](C(C)C)(C(C)C)C(C)C)[Si-:3](C(C)C)(C(C)C)(C(C)C)[O:4]2)O1.CCCC.[Li+]|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4285,"CC(C)C1([O-:1])CCC(=O)C1.CCO.O.[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8844,"CC1(C)CCCC2(C)C3C1C1C(C3[OH+:1][H:2])C12C.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3977,"CC(O)[CH:1]([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5817,"CCOC(=O)NN(C(=O)OCC)[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC1=CC(OC)=C2C(=C1)C=C(C[OH:2])C(Br)=C2OC.COC1=CC(OC)=C2C(=C1)C=C(OCC1=CC=CC=C1)C(C(=O)[O-])=C2OC|(2, 1)"
train,pmechdb_split_0,0,6251,"[AlH3:1].[CH3][Sn]([CH3])([CH3])[C]1=C(C[O-:2])C=CC=C1|(2, 1)"
train,pmechdb_split_0,0,2908,"C[O:1][OH:2].C[P:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8263,"CCCN(CCC)C1([O:1][Ti-]([Cl])([Cl])([Cl])[Cl])CCCCC1.CCC[NH+:2](CCC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2106,"C1CC[NH:1]C1.CC(=O)N1CC[C:2](=[O:3])CC1.CC1=CC=C(S(=O)(=O)O)C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10069,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C[C:2](O)=[CH:3]1.O|((2, 3), 1)"
train,pmechdb_split_0,0,6236,"CC(=O)O.CO.C[C:1](CCC(=O)C1=CC=CC=C1)=[O:2].NC1CCCCC1[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7276,"O=C(O)C1=CC=CC=C1[NH:1][N:2]=[O:3].[H:4][Cl:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1556,"CC[C:1](OC1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6799,"CO[C+:1]1C=CC2=C(C=CC=C2)[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
